US04673746
3.2 g of 7-chloro-3-(2-fluorophenyl)-6-mercapto-1,2-benzisoxazole, 3.1 g K2CO3 and 3.67 g of ethyl bromoacetate are added to 60 ml DMF and warmed for two hours at 50° C. with stirring. The solution is poured into 700 ml H2O and extracted with ethyl acetate. The combined organic extracts are dried over K2CO3, and the solvent is removed in vacuo to afford ethyl{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]thio}acetate.

reactant | 7-chloro-3-(2-fluorophenyl)-6-mercapto-1,2-benzisoxazole | 3.2 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)S | C13H7ClFNOS
reactant | K2CO3 | 3.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 3.67 g | BrCC(=O)OCC | C4H7BrO2
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | H2O | 700 ml | O | H2O
product | ethyl{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazole-6-yl]thio}acetate | C(C)OC(CSC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=O | C17H13ClFNO3S
